US08895582B2
To a solution of (S)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-5-(1,3-dioxoisoindolin-2-yl)pentyl 6-fluoroisoquinolin-3-ylcarbamate (400 mg, 0.64 mmol) in MeOH (10.0 mL) was added NH2NH2 (1.0 mL). The reaction mixture was stirred at RT for 2 h. The mixture was concentrated and re-dissolved in MeOH. The resulting solution was filtered and purified on RP-HPLC using a mixture of acetonitrile and water to give (S)-5-amino-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)pentyl 6-fluoroisoquinolin-3-ylcarbamate (305 mg, quant.). LRMS (M+H+) m/z 506.2.

reactant | (S)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-5-(1,3-dioxoisoindolin-2-yl)pentyl 6-fluoroisoquinolin-3-ylcarbamate | 0.64 mmol, 400 mg | FC=1C=C2C=C(N=CC2=CC1)NC(OC[C@H](CCCN1C(C2=CC=CC=C2C1=O)=O)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C)=O | C32H28ClF2N5O5
reactant | NH2NH2 | 1.0 mL | NN | H4N2
solvent | MeOH | 10.0 mL | CO | CH4O
product | (S)-5-amino-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)pentyl 6-fluoroisoquinolin-3-ylcarbamate | 305 mg | FC=1C=C2C=C(N=CC2=CC1)NC(OC[C@H](CCCN)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C)=O | C24H26ClF2N5O3
